US04022833
In a manner similar to that of Example 1, condensation of 1-heptene oxide (52 g.) and 1,8-octanediamine (32.8 g.) and two recrystallizations of the resulting product from methanol gave N,N'-(1,8-octylene)-bis[2-hydroxyheptylamine] (I: R= CH3 (CH2)4, R' = H, X= (CH2)8, Z= H) (17.2 g., m.p. 128.0°-132.8° C.).

reactant | 1-heptene oxide | 52 g | C1C(CCCCC)O1 | C7H14O
reactant | 1,8-octanediamine | 32.8 g | C(CCCCCCCN)N | C8H20N2
solvent | methanol | CO | CH4O
product | N,N'-(1,8-octylene)-bis[2-hydroxyheptylamine] | C(CCCCCCCNCC(CCCCC)O)NCC(CCCCC)O | C22H48N2O2
